US04910202
A mixture of 8.20 g (72.0 mmol) of N-(2-aminoethyl)-N-methyl-1,2-ethanediamine and 6.80 g (24.0 mmol) of 1-(3,5-diamino-6-bromopyrazinoyl)imidazole in 48 ml of tetrahydrofuran was stirred at ambient temperature for 30 minutes. The solution was evaporated and the residue triturated with ether. There was obtained 5.85 g (17.6 mmol, 73%) of 3,5-diamino-N-[2-[(2-aminoethyl)methylamino]ethyl]-6-bromopyrazinecarboxamide; mp 148°-150° C.

reactant | N-(2-aminoethyl)-N-methyl-1,2-ethanediamine | 72.0 mmol, 8.20 g | NCCN(CCN)C | C5H15N3
reactant | 1-(3,5-diamino-6-bromopyrazinoyl)imidazole | 24.0 mmol, 6.80 g | NC=1C(=NC(=C(N1)N)Br)C(=O)N1C=NC=C1 | C8H7BrN6O
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
product | 3,5-diamino-N-[2-[(2-aminoethyl)methylamino]ethyl]-6-bromopyrazinecarboxamide | 17.6 mmol, 5.85 g, 73% | NC=1C(=NC(=C(N1)N)Br)C(=O)NCCN(C)CCN | C10H18BrN7O
